US05827502
6-O-Palmitoyl-D-galactopyranose/galactose Mixtures
The procedure of (i) was repeated using 6-O-palmitoyl-D-galactopyranose (0.50 g) dissolved in ethanol (6 g).

reactant | 6-O-palmitoyl-D-galactopyranose | 0.50 g | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@@H]([C@@H]([C@H](C(O)O1)O)O)O | C22H42O7
solvent | ethanol | 6 g | C(C)O | C2H6O
product | 6-O-Palmitoyl-D-galactopyranose galactose | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@@H]([C@@H]([C@H](C(O)O1)O)O)O.O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | InChI=1S/C22H42O7.C6H12O6/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-18(23)28-16-17-19(24)20(25)21(26)22(27)29-17;7-1-3(9)5(11)6(12)4(10)2-8/h17,19-22,24-27H,2-16H2,1H3;1,3-6,8-12H,2H2/t17-,19+,20+,21-,22?;3-,4+,5+,6-/m10/s1
